US06432949B1
6-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine3-carboxamide
Using an analogous procedure to that described in Example 17, 6-chloropyridine-3-carbonyl chloride was reacted with N-(3-amino4methylphenyl)-2-morpholinopyridine-4-carboxamide to give the title compound in 56% yield; NMR Spectrum: (DMSOd6): 2.21 (s, 3.53 (m, 4H), 3.69-3.73 (m, 4H), 7.08 (d, 1H), 7.25 (d, 2H), 7.56 (d, 1H) 7.69 (d, 1H), 7.82 (d, 1H), 8.26 (d, 1H), 8.37 (d, 1H), 8.96 (d, 1H); Mass Spectrum M+H+ 452 and 454 .

reactant | 6-chloropyridine-3-carbonyl chloride | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | N-(3-amino4methylphenyl)-2-morpholinopyridine-4-carboxamide | NC=1C=C(C=CC1C)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H20N4O2
product | 6-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine3-carboxamide | 56% yield | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C23H22ClN5O3
